US06245790B1
A solution of AD-mix-α® (30 g) in a mixture of t-BuOH (600 ml) and water (600 ml) was stirred for 1 hour, and then methanesulfonamide (9.3 g) and 1-(4,5-diphenyloxazol-2-yl)-1-cyclohexene added to the solution at room temperature. After being stirred for 20 hours at the same temperature, sodium sulfite (60 g) was added, and the mixture was stirred for 30 minutes. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl solution, sat. NaHCO3 and brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford (1R,2S)-1,2-dihydroxy-1-(4,5-diphenyloxazol-2-yl)cyclohexane (30 g).

reactant | AD-mix-α | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 9.3 g | CS(=O)(=O)N | CH5NO2S
reactant | 1-(4,5-diphenyloxazol-2-yl)-1-cyclohexene | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCCCC1 | C21H19NO
reactant | sodium sulfite | 60 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | t-BuOH | 600 ml | CC(C)(C)O | C4H10O
solvent | water | 600 ml | O | H2O
product | (1R,2S)-1,2-dihydroxy-1-(4,5-diphenyloxazol-2-yl)cyclohexane | 30 g | O[C@]1([C@H](CCCC1)O)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NO3
